US04115357
PREPARATION OF POLY(1,2-BIS(4-HYDROXYPHENYL)ETHANE ISOPHTHALATE
A charge consisting of 82 parts of isophthalic acid and 148 parts of 1,2-bis(4-acetoxyphenyl)ethane and 0.005 moles sodium carbonate per mole of 1,2-bis(4-acetoxyphenyl)ethane is placed in a reaction vessel equipped with a stirrer, condenser and receiver. The vessel is evacuated and purged with nitrogen three times. A nitrogen blanket is maintained in the reactor while it is heated to 250° C. for about three hours during which period approximately 35 to 40 parts of acetic acid distills. Thereupon the vessel is evacuated to a pressure of about 200 torr for about 5 minutes and the pressure is slowly reduced to about 1 torr while the temperature is increased to about 290° C. When the amperage on the stirrer motor increases by 0.02 to 0.04 amps, the stirrer motor is switched off and the vacuum is released with nitrogen. From 95 to 97 percent of the theoretical amount of acetic acid is collected. The polymer is extruded from the vessel under slight nitrogen pressure and is reduced in a Thomas mill to a powder of particle size in the range of about 0.1 to 0.25 mm. The inherent viscosity is about 0.3. The powder is charged to a reaction vessel which is then purged with nitrogen. The pressure is reduced to 0.1 to 0.2 torr. and the temperature is raised to about 10° to 15° C. below the melting point of the polymer. Heating is continued for 12 hours. The vessel is cooled and the crystalline polymer is discharged. The inherent viscosity of the polymer is 0.90. The polymer melts at 279°-290° C. The rate of crystallization is 2.56 min.-1.

reactant | isophthalic acid | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | 1,2-bis(4-acetoxyphenyl)ethane | C(C)(=O)OC1=CC=C(C=C1)CCC1=CC=C(C=C1)OC(C)=O | C18H18O4
reactant | sodium carbonate | 0.005 moles | C([O-])([O-])=O.[Na+].[Na+]
product | 1,2-BIS(4-HYDROXYPHENYL)ETHANE ISOPHTHALATE | C(C1=CC(C(=O)O)=CC=C1)(=O)O.OC1=CC=C(C=C1)CCC1=CC=C(C=C1)O | InChI=1S/C14H14O2.C8H6O4/c15-13-7-3-11(4-8-13)1-2-12-5-9-14(16)10-6-12;9-7(10)5-2-1-3-6(4-5)8(11)12/h3-10,15-16H,1-2H2;1-4H,(H,9,10)(H,11,12)
